US06730668B2
Preparation of 1-[4-dimethylamino-2-(2-methylsulfanyl-pyrimidine-4-carbonyl) pyrazolidin-1-yl]-2-(4-fluorophenyl)-ethanone (23):
To a solution of 1-(4-dimethylamino-pyrazolidin-1-yl)-2-(4-fluorophenyl)-ethanone, 22, (2.5 g, 10 mmol) in dichloromethane (20 mL) is added 2-methylsulfonyl-pyrimidine-4-carbonyl chloride (3.7 g, 20 mmol) followed by dropwise addition of a 1.0 N aqueous solution of sodium hydroxide (35 mL). The mixture is vigorously stirred at room temperature for 12 hours. The reaction is diluted with dichloromethane (100 mL) and washed with water (100 mL). The aqueous layer is back-extracted with dichloromethane (100 mL). The combined organic layers are washed with a saturated aqueous solution of sodium bicarbonate (100 mL) and brine (100 mL), dried, filtered and concentrated in vacuo. The resulting crude material is purified over silica (1:1 hexane/ethyl acetate to 100% ethyl acetate) to afford the desired product.

reactant | 1-(4-dimethylamino-pyrazolidin-1-yl)-2-(4-fluorophenyl)-ethanone | CN(C1CNN(C1)C(CC1=CC=C(C=C1)F)=O)C | C13H18FN3O
reactant | 2-methylsulfonyl-pyrimidine-4-carbonyl chloride | 20 mmol, 3.7 g | CS(=O)(=O)C1=NC=CC(=N1)C(=O)Cl | C6H5ClN2O3S
reactant | sodium hydroxide | 35 mL | [OH-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-[4-dimethylamino-2-(2-methylsulfanyl-pyrimidine-4-carbonyl) pyrazolidin-1-yl]-2-(4-fluorophenyl)-ethanone | CN(C1CN(N(C1)C(CC1=CC=C(C=C1)F)=O)C(=O)C1=NC(=NC=C1)SC)C | C19H22FN5O2S
